US04814382
Preparation of 2-Hydroxyethyl 2-Ethyl-1-Hexyl-Carbamate
135 grams (1.5 moles, 98% pure) of ethylene carbonate were charged to a flask and heated to approximately 50° C. to melt it. 198 grams (1.5 moles, 98% pure) of 2-ethyl-1-hexylamine were charged to a dropping funnel and fed drop-wise to the stirred flask contents at a rate sufficient to maintain the reaction mixture at 70° C. during the addition. The resulting mixture was heated at 95° C. for an additional 10 hours. Infrared analysis of the resultant product was consistent with the proposed structure.

reactant | ethylene carbonate | 1.5 moles, 135 grams | C1(OCCO1)=O | C3H4O3
reactant | 2-ethyl-1-hexylamine | 1.5 moles, 198 grams | C(C)C(CN)CCCC | C8H19N
product | 2-Hydroxyethyl 2-Ethyl-1-Hexyl-Carbamate | C(C)C(CNC(OCCO)=O)CCCC | C11H23NO3
